US06043248
(E)-N,N-Dipropyl-4-[(4-amino-6-chloro-2-pyrimidinyl)thio]-2-butenamide (Cpd #202)
4-Chlorocrotonyl chloride (1.02 g, 7.35 mmol) in ether (10 ml) is combined with dipropylamine (1.64 g, 16.17 mmol) in ether (5 ml) at -15° C. in a flame dried flask. The reaction is warmed to ambient temperature, stirred for 1 to 2 hours, quenched with water (30 ml), extracted with ethyl acetate (2×30 ml), washed with saline (30 ml), dried over sodium sulfate, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 100 ml), eluting with hexane/ethyl acetate (60/40). The appropriate fractions are combined (Rf =0.53, TLC, hexane/ethyl acetate, 25/75) and concentrated in vacuo to give 4-chloro-N,N-dipropylcrotonamide. 4-Amino-6-chloro-2-mercaptopyrimidine mesylate (0.30 g, 1.16 mmol) is dissolved in DMF (5 ml) and sodium hydride (0.06 g, 2.55 mmol) at ambient temperature followed by the addition of 4-chloro-N,N-dipropylcrotonamide (0.23 g, 1.13 mmol). The reaction is stirred for 2 to 15 hours, quenched with excess water, extracted with ethyl acetate (3×20 ml). The extracts are combined, washed with saline (20 ml), dried over sodium sulfate, concentrated in vacuo and chromatographed on silica gel (230-400 mesh, 100 ml), eluting with hexane/ethyl acetate (60/40). The appropriate fractions are combined (Rf =0.40, TLC, hexane/ethyl acetate, 25/75) and concentrated in vacuo to give the title compound, mp 139-142° C.

reactant | 4-Amino-6-chloro-2-mercaptopyrimidine mesylate | 1.16 mmol, 0.30 g | S(C)(=O)(=O)O.NC1=NC(=NC(=C1)Cl)S
reactant | sodium hydride | 2.55 mmol, 0.06 g | [H-].[Na+]
reactant | 4-chloro-N,N-dipropylcrotonamide | 1.13 mmol, 0.23 g | ClC/C=C/C(=O)N(CCC)CCC | C10H18ClNO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (E)-N,N-Dipropyl-4-[(4-amino-6-chloro-2-pyrimidinyl)thio]-2-butenamide | C(CC)N(C(\C=C\CSC1=NC(=CC(=N1)N)Cl)=O)CCC | C14H21ClN4OS
